US04048423
2,4,4-Trimethylcyclopentanone t-butylhydrazone was prepared by refluxing an aqueous solution of t-butylhydrazine with an equimolar amount of 2,4,4-trimethylcyclopentanone.

reactant | t-butylhydrazine | C(C)(C)(C)NN | C4H12N2
reactant | 2,4,4-trimethylcyclopentanone | CC1C(CC(C1)(C)C)=O | C8H14O
product | 2,4,4-Trimethylcyclopentanone t-butylhydrazone | C(C)(C)(C)NN=C1C(CC(C1)(C)C)C | C12H24N2
